US05486466
To a solution of 5.1 g of tert-butyldimethylsilyl 2-bromomethyl-3-(tert-butyldimethylsilyloxy)-4-chlorobenzoate and 3.52 g of N-[N-(tert-butoxycarbonyl)-L-seryl]-L-cysteine methyl ester in 55 ml of methylene chloride was added within 30 minutes, at 0° C., a solution of 1.59 g of 1,8-diazabicyclo [5.4.0]undec-7-ene (DBU) in 15 ml of methylene chloride. Stirring was continued for 3 hours at 0° C., and subsequently the mixture was diluted with methylene chloride and stirred together with 100 ml of 1N aqueous acetic acid. The organic phase was washed with 10% sodium chloride solution, dried over sodium sulfate, and the solvent was evaporated in vacuo. The residue was chromatographed on MCI-Gel CHP20P using as eluent a mixture of acetonitrile-water containing 40-0% water. The product was eluted with pure acetonitrile. Evaporation of the solvent afforded 2.7 g of 2-[[[(R)-2-[(S)-1-tert-butoxyformamido )-3-hydroxypropionylamino]-2-methoxycarbonyl-ethyl ]thio]methyl]-3 -(tert-butyldimethylsilyloxy)-4-chlorobenzoic acid as a white foam.

reactant | tert-butyldimethylsilyl 2-bromomethyl-3-(tert-butyldimethylsilyloxy)-4-chlorobenzoate | 5.1 g | BrCC1=C(C(=O)O[Si](C)(C)C(C)(C)C)C=CC(=C1O[Si](C)(C)C(C)(C)C)Cl | C20H34BrClO3Si2
reactant | N-[N-(tert-butoxycarbonyl)-L-seryl]-L-cysteine methyl ester | 3.52 g | COC([C@@H](NC([C@@H](NC(=O)OC(C)(C)C)CO)=O)CS)=O | C12H22N2O6S
reactant | 1,8-diazabicyclo [5.4.0]undec-7-ene | 1.59 g | N12CCCCCC2=NCCC1 | C9H16N2
reactant | acetic acid | 1N, 100 ml | C(C)(=O)O | C2H4O2
solvent | methylene chloride | 55 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
product | 3 -(tert-butyldimethylsilyloxy)-4-chlorobenzoic acid | [Si](C)(C)(C(C)(C)C)OC=1C=C(C(=O)O)C=CC1Cl | C13H19ClO3Si
